US07176216B2
To a solution of tert-butyl N-(7-bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)carbamate (658 mg) in N,N-dimethylformamide (15 mL) was added sodium hydride (60% in oil; 116 mg) at room temperature under a nitrogen stream, and the reaction mixture was stirred for 30 minutes. (Bromomethyl)cyclopropane (0.286 mL) was added thereto at the same temperature, and the reaction mixture was stirred for 1 hour at 60° C. After completion of the reaction, the reaction mixture was gradually added to ice, ethyl acetate was added and the organic extract was washed with water and brine, after which it was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to afford a crude product of tert-butyl N-(7-bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopropylmethylcarbamate.

reactant | tert-butyl N-(7-bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)carbamate | 658 mg | BrC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)CC | C14H18BrN3O2
reactant | sodium hydride | 116 mg | [H-].[Na+]
reactant | (Bromomethyl)cyclopropane | 0.286 mL | BrCC1CC1 | C4H7Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | tert-butyl N-(7-bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopropylmethylcarbamate | BrC1=CC=CC=2N1N=C(C2N(C(OC(C)(C)C)=O)CC2CC2)CC | C18H24BrN3O2
